2129-10-14 07:35:00 Physician Resident Progress Note
Chief Complaint: Perineal Pain
   24 Hour Events:
   Patient with abscess drained yesterday in OR; requiring sedation for
   dressing change so was transfered to the [**Hospital Unit Name 44**].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-10-13**] 09:00 PM
   Vancomycin - [**2129-10-13**] 10:00 PM
   Gentamicin - [**2129-10-13**] 11:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-10-14**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 74 (74 - 111) bpm
   BP: 109/58(70) {100/13(44) - 144/97(105)} mmHg
   RR: 22 (15 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,902 mL
                                                                    555 mL
   PO:
                                                                    840 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  3,062 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,455 mL
                                                                  1,700 mL
   Urine:
                                                                  1,300 mL
                                                                  1,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,447 mL
                                                                 -1,145 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   GENERAL: NAD, A&O x3, lying in bed comfortably without any pain
   HEENT: PEERLA
   Heart: RRR, no m/r/g
   Lungs: CTAB
   Abdomen: non-tender, non-distended, normal bowel sounds
   Extremities: no edema, warm palpable pulses, no lymphadenopathy
   Skin: No skin rashes
   Perineum: Open, with gauses inside wound, draining small amounts of
   serous-sanguineous fluid
   Neuro: Strength 5/5, normal ROTs, non-focal.
   Labs / Radiology
   769 K/uL
   11.8 g/dL
   103 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.3 mEq/L
   9 mg/dL
   100 mEq/L
   137 mEq/L
   34.3 %
   12.6 K/uL
        [image002.jpg]
                             [**2129-10-14**]  03:51 AM
   WBC
   12.6
   Hct
   34.3
   Plt
   769
   Cr
   0.7
   Glucose
   103
   Other labs: PT / PTT / INR:15.4/29.6/1.4, Ca++:8.8 mg/dL, Mg++:2.0
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   50M with DM and large perineal fluid collection requiring I&D in OR by
   urology on [**10-13**].
   .
   Abscess - Large fluid perineal collection 12x3cm requiring I&D.  On
   vanc, zosyn, and gent.  No evidence of [**Last Name (un) 5064**] per urology but will
   need to be monitored closely.  Admitted to ICU for conscious sedation
   for packing changes.
   - continue vanc (D6), zosyn (D6), and gent (D2).
   - being followed by urology while in ICU
   - dressing/packing changes by urology with conscious sedation
   anticipated for today, will likely use propofol
   - monitor for signs and symptoms of infection
   - CIS
   - f/u abscess cx, tailor antibiotics as appropriate
   .
   Diabetes - currently restarting diet after sedation and dressing
   change.  Tight blood sugar control has proven challenging thus far.
   - will advance diet after sedatio today; insulin full dose [**First Name8 (NamePattern2) **] [**Last Name (un) 276**]
   recs
   - appreciate [**Last Name (un) 276**] rec's, will continue to titrate insulin sliding
   scale for optimal blood sugar control
   - continue daily baby ASA for cardiac prevention
   .
   Hyperlipidemia
 continue statin
   .
   FEN - Advance diet from sips to clears, ISS, gentle fluids for now
   post-op
   .
   Proph - Heparin sc, IS, bowel regimen
   .
   Code Status - Full Code
   Dispo: If pain can be controlled with IV/PO pain medication will go to
   floor today.
   .
   HCP - Wife, [**Name (NI) **] [**Name (NI) 5065**], [**Telephone/Fax (1) 5066**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2129-10-13**] 03:48 PM
   22 Gauge - [**2129-10-13**] 09:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-10-14 10:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50 year old male with type II DM and perineal fluid collection drained
   by urology, sent to the ICU for conscious sedation and serial dressing
   changes.
   24 Hour Events:
   Overnight, no new problems.
   Allergies:
   [**Name2 (NI) 59**] Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-10-13**] 09:00 PM
   Vancomycin - [**2129-10-13**] 10:00 PM
   Gentamicin - [**2129-10-13**] 11:30 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2129-10-14**] 07:30 AM
   Other medications:
   Changes to medical and family history: No changes from prior (see H and
   P on [**10-13**])
   Review of systems is unchanged from admission except as noted below
   Review of systems: no new problems
   Flowsheet Data as of  [**2129-10-14**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.1
   HR: 74 (72 - 111) bpm
   BP: 110/63(74) {99/13(44) - 144/97(105)} mmHg
   RR: 18 (12 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,902 mL
                                                                    581 mL
   PO:
                                                                    840 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  3,062 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  1,455 mL
                                                                  2,040 mL
   Urine:
                                                                  1,300 mL
                                                                  2,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,447 mL
                                                                 -1,459 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   Awake, alert NAD
   Chest: CTA bilaterally
   Heart: S1 S2 regular
   Abd: soft NTND
   Ext: no edema, cyanosis
   Skin: warm, dry
   Labs / Radiology
   11.8 g/dL
   769 K/uL
   103 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.3 mEq/L
   9 mg/dL
   100 mEq/L
   137 mEq/L
   34.3 %
   12.6 K/uL
        [image002.jpg]
                             [**2129-10-14**]  03:51 AM
   WBC
   12.6
   Hct
   34.3
   Plt
   769
   Cr
   0.7
   Glucose
   103
   Other labs: PT / PTT / INR:15.4/29.6/1.4, Ca++:8.8 mg/dL, Mg++:2.0
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   1) Perineal Abscess: S/P drianage yesterday; dressing changed under
   conscious sedation this morning.  Will perform again in the afternoon
   2) DM
   3) FEN:
   4) Full code
   5) To the floor after the afternoon dressing change
   Addendum: Surgery is requesting patient to stay in the ICU overnight
   with plans for dressing change in the morning with conscious sedation.
   If there are no other patients requiring ICU-level care, patient can
   stay in the ICU.  If bed needed for another patient, will send to the
   floor and make other plans for conscious sedation/dressing changes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2129-10-13**] 03:48 PM
   22 Gauge - [**2129-10-13**] 09:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : To the floor
   Total time spent: 30

2129-10-15 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -could not tolerate dressing changes with dilaudid only, required
   conscious sedation- urology to see again today
   -on regular diet
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-10-14**] 08:00 PM
   Gentamicin - [**2129-10-14**] 09:43 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-10-15**] 02:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2129-10-14**] 07:30 AM
   Fentanyl - [**2129-10-14**] 05:50 PM
   Midazolam (Versed) - [**2129-10-14**] 05:51 PM
   Heparin Sodium (Prophylaxis) - [**2129-10-14**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   c/o [**5-19**] pain this morning, per nursing is not using dilaudid PCA
   properly
   Flowsheet Data as of  [**2129-10-15**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 74 (64 - 93) bpm
   BP: 109/62(74) {99/55(65) - 126/84(90)} mmHg
   RR: 16 (11 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,480 mL
                                                                    165 mL
   PO:
                                                                  1,440 mL
             TF:
   IVF:
                                                                  1,040 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                  3,575 mL
                                                                  1,130 mL
   Urine:
                                                                  3,575 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,095 mL
                                                                   -965 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   HEENT: NCAT MMM
   CV: RRR S1S2
   PULM: clear b/cl
   ABD: soft nontender
   GU: dressings c/d/i
   EXT: WWP 2+ dp pulses
   Labs / Radiology
   760 K/uL
   12.7 g/dL
   157 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.7 mEq/L
   9 mg/dL
   100 mEq/L
   135 mEq/L
   35.3 %
   10.2 K/uL
        [image002.jpg]
                             [**2129-10-14**]  03:51 AM
                             [**2129-10-15**]  04:30 AM
   WBC
   12.6
   10.2
   Hct
   34.3
   35.3
   Plt
   769
   760
   Cr
   0.7
   0.8
   Glucose
   103
   157
   Other labs: PT / PTT / INR:15.4/29.6/1.4, Ca++:9.1 mg/dL, Mg++:1.9
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   50yoM with [**Hospital 1323**]  transferred to [**Hospital Unit Name 44**] for incisional drainage of
   urethral abscess by urology.
   Abscess - Large fluid perineal collection 12x3cm requiring I&D.  On
   vanc, zosyn, and gent.  Urology with [**Hospital1 **] dressing changes. At this
   point requires only conscious sedation with versed/midazolam. [**Month (only) 60**] be
   able to go to floor and use fentanyl for remainder of dressing changes.
   - continue vanc (D7), zosyn (D7), and gent (D3).
   - dressing/packing changes by urology this PM
   - monitor for signs and symptoms of infection
   - CIS
   Pain management- patient has been explained how to use PCA however does
   not use it. Per urology, will switch to PO dilaudid, tylenol and
   toradol PRN dressing changes for pain regiment.
   -po dilaudid, tylenol standing
   -prn toradol with dressing changes
   -d/c PCA
   Anemia- iron studies show patient is anemic, would benefit from iron
   supplementation
   -iron supplements qd
   Diabetes - currently restarting diet after sedation and dressing
   change.  Tight blood sugar control has proven challenging thus far.
   - will advance diet after sedatio today; insulin full dose [**First Name8 (NamePattern2) **] [**Last Name (un) 276**]
   recs
   - appreciate [**Last Name (un) 276**] rec's, will continue to titrate insulin sliding
   scale for optimal blood sugar control
   .
   Hyperlipidemia
 continue statin
   .
   FEN - Advance diet from sips to clears, ISS, gentle fluids for now
   post-op
   .
   Proph - Heparin sc, ASA, bowel regimen
   .
   Code Status - Full Code
   Dispo: To floor is dressing changes able to be done with minimal
   sedation
   .
   HCP - Wife, [**Name (NI) **] [**Name (NI) 5065**], [**Telephone/Fax (1) 5066**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2129-10-14**] 12:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Patient advanced to regular diabetic diet today, provided he is NPO
   2hrs prior to any dressing changes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 5095**] [**Name8 (MD) 5096**], MD
   on:[**2129-10-15**] 16:00 ------

2129-10-16 06:48:00 Physician Resident Progress Note
Chief Complaint: Fever, perineal pain, erythema and swelling
   24 Hour Events:
 PICC LINE - START [**2129-10-15**] 05:44 PM
 EKG - At [**2129-10-15**] 07:40 PM
   -PICC line placed
   -dressing change done w/midaz and fentanyl. Urology recs incl. standing
   PO dilaudid, tylenol and toradol prn for dressing changes.
   -d/c dilaudid pca
   -likely to floor tomorrow
   -8pm: 12 beat run [**Name (NI) 5176**] pt asymptomatic. [**Month (only) 60**] be artifact.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-10-15**] 09:58 PM
   Gentamicin - [**2129-10-16**] 02:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-10-16**] 03:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2129-10-15**] 08:57 PM
   Fentanyl - [**2129-10-15**] 08:57 PM
   Heparin Sodium (Prophylaxis) - [**2129-10-16**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-10-16**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 74 (59 - 96) bpm
   BP: 111/71(79) {95/49(57) - 123/73(83)} mmHg
   RR: 17 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  2,200 mL
                                                                    268 mL
   PO:
                                                                  1,160 mL
             TF:
   IVF:
                                                                  1,040 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                  2,720 mL
                                                                  1,200 mL
   Urine:
                                                                  2,720 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -520 mL
                                                                   -933 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   849 K/uL
   11.3 g/dL
   145 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.2 mEq/L
   8 mg/dL
   102 mEq/L
   138 mEq/L
   34.8 %
   10.9 K/uL
        [image002.jpg]
                             [**2129-10-14**]  03:51 AM
                             [**2129-10-15**]  04:30 AM
                             [**2129-10-16**]  03:58 AM
   WBC
   12.6
   10.2
   10.9
   Hct
   34.3
   35.3
   34.8
   Plt
   [**Telephone/Fax (3) 5177**]
   Cr
   0.7
   0.8
   0.9
   Glucose
   103
   157
   145
   Other labs: PT / PTT / INR:15.4/29.5/1.4, Ca++:9.2 mg/dL, Mg++:1.9
   mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   50yoM with [**Hospital 1323**]  transferred to [**Hospital Unit Name 44**] for incisional drainage of
   urethral abscess by urology.
   Abscess - Large fluid perineal collection 12x3cm requiring I&D.  On
   vanc, zosyn, and gent.  Urology with [**Hospital1 **] dressing changes. At this
   point requires only conscious sedation with versed/midazolam. [**Month (only) 60**] be
   able to go to floor and use fentanyl for remainder of dressing changes.
   - continue vanc (D7), zosyn (D7), and gent (D3).
   - dressing/packing changes by urology this PM
   - monitor for signs and symptoms of infection
   - CIS
   Pain management- patient has been explained how to use PCA however does
   not use it. Per urology, will switch to PO dilaudid, tylenol and
   toradol PRN dressing changes for pain regiment.
   -po dilaudid, tylenol standing
   -prn toradol with dressing changes
   -d/c PCA
   Anemia- iron studies show patient is anemic, would benefit from iron
   supplementation
   -iron supplements qd
   Diabetes - currently restarting diet after sedation and dressing
   change.  Tight blood sugar control has proven challenging thus far.
   - will advance diet after sedatio today; insulin full dose [**First Name8 (NamePattern2) **] [**Last Name (un) 276**]
   recs
   - appreciate [**Last Name (un) 276**] rec's, will continue to titrate insulin sliding
   scale for optimal blood sugar control
   .
   Hyperlipidemia
 continue statin
   .
   FEN - Advance diet from sips to clears, ISS, gentle fluids for now
   post-op
   .
   Proph - Heparin sc, ASA, bowel regimen
   .
   Code Status - Full Code
   Dispo: To floor is dressing changes able to be done with minimal
   sedation
   .
   HCP - Wife, [**Name (NI) **] [**Name (NI) 5065**], [**Telephone/Fax (1) 5066**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-10-15**] 05:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: